US06005137
Under a N2 atmosphere 29.5 g of 1,3,5-trichloro-2,4,6-trifluorobenzene (Oakwood Products, Inc.) were dissolved in 150 mL dry ethyl ether. The solution was cooled to -78° C. in an acetone/dry-ice bath, then treated with 62.7 mL n-butyllithium (2 M solution in hexanes) over a two-hour period. Stirring was continued for 3 hours at -78° C. Via syringe, 34.8 g perfluorocyclohexanone were added, and the mixture was stirred at room temperature for 16 hours. The reaction was quenched with dilute HCl and extracted with ethyl ether, and the extracts were dried (using MgSO4) and rotary evaporated. Vacuum distillation (118-120° C., 80-110 Pa) gave 37.3 g 1-(3,5-dichloro-2,4,6-trifluorophenyl) perfluorocyclohexanol (62% yield) as a colorless liquid.

reactant | 1,3,5-trichloro-2,4,6-trifluorobenzene | 29.5 g | ClC1=C(C(=C(C(=C1F)Cl)F)Cl)F | C6Cl3F3
reactant | n-butyllithium | 2 M, 62.7 mL | C(CCC)[Li]
reactant | perfluorocyclohexanone | 34.8 g | FC1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)=O)F | C6F10O
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
product | 1-(3,5-dichloro-2,4,6-trifluorophenyl) perfluorocyclohexanol | 37.3 g, 62% yield | ClC=1C(=C(C(=C(C1F)Cl)F)C1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)O)F | C12HCl2F13O
